US08053440B2
2-(4-(Bis(2-hydroxyethyl)amino)phenyl)quinazolin-4(3H)-one was synthesized from anthranilamide and 4-[bis-(2-hydroxy-ethyl)-amino]-benzaldehyde, using the method described for 5,7-dimethoxy-2-(pyridin-2-yl)quinazolin-4(3H)-one. 2-(4-(Bis(2-hydroxyethyl)amino)phenyl)quinazolin-4(3H)-one (150 mg, 42%) was isolated as a brown solid. Selected data: MS (m/z): 326.03; MP 228-230° C.

reactant | anthranilamide | C(C=1C(N)=CC=CC1)(=O)N | C7H8N2O
reactant | 4-[bis-(2-hydroxy-ethyl)-amino]-benzaldehyde | OCCN(C1=CC=C(C=O)C=C1)CCO | C11H15NO3
reactant | 5,7-dimethoxy-2-(pyridin-2-yl)quinazolin-4(3H)-one | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=NC=CC=C1)=O | C15H13N3O3
product | 2-(4-(Bis(2-hydroxyethyl)amino)phenyl)quinazolin-4(3H)-one | 150 mg, 42% | OCCN(C1=CC=C(C=C1)C1=NC2=CC=CC=C2C(N1)=O)CCO | C18H19N3O3
